US06825180B2
A pressure tube was charged with (R)-3-(5-acetoxyhexyl)-1,7-dimethyl-5-trifluoromethanesulfonyloxypyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione (100 mg, 0.208 mmol) and tetrahydrofuran (1 ml). After cooling to 0° C., dimethylamine gas was introduced until approximately 1 ml had collected. The tube was sealed and heated at 55° C. for 18 hours. After cooling to room temperature, the tube was carefully vented and the dimethylamine was evaporated to provide crude (R)-3-(5-acetoxyhexyl)-1,7-dimethyl-5-(N,N-dimethylamino)pyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione.

reactant | (R)-3-(5-acetoxyhexyl)-1,7-dimethyl-5-trifluoromethanesulfonyloxypyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione | 0.208 mmol, 100 mg | C(C)(=O)O[C@@H](CCCCN1C(N(C2=C(C1=O)C(=CC(=N2)C)OS(=O)(=O)C(F)(F)F)C)=O)C | C18H22F3N3O7S
reactant | dimethylamine | CNC | C2H7N
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | (R)-3-(5-acetoxyhexyl)-1,7-dimethyl-5-(N,N-dimethylamino)pyrido[2,3-d]pyrimidine-2,4(1H,3H)-dione | C(C)(=O)O[C@@H](CCCCN1C(N(C2=C(C1=O)C(=CC(=N2)C)N(C)C)C)=O)C | C19H28N4O4
